US06521643B1
A suspension of 2-fluoro-4-methylpyridine (1.11 g), 3-(tert-butoxycarbonylamino)pyrrolidine (1.68 g) and potassium carbonate (1.49 g) in N,N-dimethylformamide (20 ml) was stirred at 100° C. for 16 hours. After cooling, the mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water five times and brine, dried over sodium sulfate and evaporated under reduced pressure to give 1-(4-methylpyridin-2-yl)-3-(tert-butoxycarbonylamino)pyrrolidine (1.36 g).

reactant | 2-fluoro-4-methylpyridine | 1.11 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | 3-(tert-butoxycarbonylamino)pyrrolidine | 1.68 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | potassium carbonate | 1.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(4-methylpyridin-2-yl)-3-(tert-butoxycarbonylamino)pyrrolidine | 1.36 g | CC1=CC(=NC=C1)N1CC(CC1)NC(=O)OC(C)(C)C | C15H23N3O2
